US05698692
To the solution of p-acetylphenol (10 g) in DMF (50 ml) were added potassium carbonate (12.2 g) and t-butyl bromoacetate (16.2 ml), and the mixture was stirred at room temperature for 2 hours. After the reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. After the solvents were removed by distillation, crystals thus obtained were washed with n-hexane to give 17.7 g of t-butyl 4-acetylphenoxyacetate (yield, 96%).

reactant | p-acetylphenol | 10 g | C(C)(=O)C1=CC=C(C=C1)O | C8H8O2
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 16.2 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | t-butyl 4-acetylphenoxyacetate | 17.7 g, 96% | C(C)(=O)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C14H18O4
